US07179823B1
A mixture of diethyl 2-[3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propyl]malonate (1.56 g), 4N aqueous potassium hydroxide solution (5 ml) and ethanol (10 ml) was refluxed for 30 minutes. The reaction mixture was acidified with dilute hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. A mixture of the residue and pyridine (10 ml) was stirred at 110° C. for 2 hours. After removal of the solvent under reduced pressure, the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with dilute hydrochloric acid, then with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield 5-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]pentanoic acid (857 mg, yield: 65%). This was recrystallized from ethyl acetate-hexane. Melting point: 109–110° C.

reactant | diethyl 2-[3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propyl]malonate | 1.56 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCCC(C(=O)OCC)C(=O)OCC)C2=CC=CC=C2)C=C1 | C37H39N3O6
reactant | potassium hydroxide | 4N, 5 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]pentanoic acid | 857 mg, yield: 65% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCCCC(=O)O)C2=CC=CC=C2)C=C1 | C32H31N3O4
